US20010037033A1
Synthesis of (+)-2-Methoxycarbonylamino-2′-Diphenylphosphino-1,1′-Binaphthyl: The Formula (1-2b))
1.20 gram (2.65 mmol) of (−)-2-amino-2′-diphenylphosphino-1,1′-binaphthyl (1-1a) was dissolved in 53 ml of methylene chloride, followed by the addition of 0.26 ml (3.18 mmol) of pyridine and 0.23 ml (2.91 mmol) of methyl chloroformate under 0° C. The reaction mixture was stirred at room temperature for 21 hours. To the reaction solution, 40 ml of saturated aqueous solution of ammonium chloride was added and extracted with 100 ml of methylene chloride. The extract was washed with 80 ml of brine, and then dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure. The residue was purified using a silica gel column chromatography (eluent: 1:4 mixture of ethyl acetate and hexane) to obtain 1.25 gram of the titled compound.

reactant | (−)-2-amino-2′-diphenylphosphino-1,1′-binaphthyl | 2.65 mmol, 1.20 gram | NC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1 | C32H24NP
reactant | pyridine | 3.18 mmol, 0.26 ml | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 2.91 mmol, 0.23 ml | ClC(=O)OC | C2H3ClO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | 53 ml | C(Cl)Cl | CH2Cl2
product | (+)-2-Methoxycarbonylamino-2′-Diphenylphosphino-1,1′-Binaphthyl | 1.25 gram | COC(=O)NC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1 | C34H26NO2P
